US07235569B2
3-{1-[2-(7-methoxy-1-benzofuran-3-yl)-1-methylethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-6-fluoro-1H-indole was prepared by generally following the procedure outlined in example 41, step 2, starting from the 1-(7-methoxy-1-benzofuran-3-yl)acetone (204 mg, 1 mmol) and 3 (1,2,3,6-tetrahydro-4-pyridinyl)-6-fluoro-1H-indole (216.0 mg, 1 mmol) in 1,2-dichloroethane (100 ml) and acetic acid (1 ml), sodium triacetoxyborohydride (422 mg, 2 mmol). The product was purified by silica-gel column chromatography by eluting it with 80% ethyl acetate:hexane. Brown solid; Yield: 60 mg (14%); 405 (M+H); 1HNMR (400 MHz, CDCl3): δ 8.31 (broad, s, 1H, NH); 7.92˜6.88 (m, 7H); 6.25 (s, 1H); 3.85 (s, 3H), 3.50˜2.60 (m, 10H); 1.03˜1.05 (d, J=8.0 Hz, 3H).

reactant | 1-(7-methoxy-1-benzofuran-3-yl)acetone | 1 mmol, 204 mg | COC1=CC=CC=2C(=COC21)CC(=O)C | C12H12O3
reactant | (1,2,3,6-tetrahydro-4-pyridinyl)-6-fluoro-1H-indole | 1 mmol, 216.0 mg | N1CCC(=CC1)N1C=CC2=CC=C(C=C12)F | C13H13FN2
reactant | sodium triacetoxyborohydride | 2 mmol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3-{1-[2-(7-methoxy-1-benzofuran-3-yl)-1-methylethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-6-fluoro-1H-indole | COC1=CC=CC=2C(=COC21)CC(C)N2CCC(=CC2)C2=CNC1=CC(=CC=C21)F | C25H25FN2O2
